US04055595
A solution of the methyl 6-chloro-2-naphthoate (111 g.) in ether (2.5 l.) is added, dropwise below 25° C. under nitrogen, to a stirred mixture of ether (250 ml.) and a 70% solution (250 ml.) of sodium dihydro-bis-(2-methoxyethoxy)aluminate in benzene during 1 hour. The mixture is stirred for a further 30 minutes and 2N-hydrochloric acid (250 ml.) is added cautiously. The solution is decanted from undissolved solid, and concentrated hydrochloric acid is added to the solid until it dissolves. The two solutions thus obtained are combined, and ether (1 l.) and a mixture of ice and water (1 l.) are added. The ethereal layer is separated, and the aqueous phase extracted with ether. The ethereal solutions are combined, washed with water, dried and evaporated to give 6-chloro-2-hydroxymethylnaphthalene (95 g.) which may be further purified by crystallisation from toluene to give material of m.p. 134°-137° C.

reactant | methyl 6-chloro-2-naphthoate | 111 g | ClC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H9ClO2
reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | water | 1 l | O | H2O
solvent | ether | 2.5 l | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | 1 l | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 6-chloro-2-hydroxymethylnaphthalene | 95 g | ClC=1C=C2C=CC(=CC2=CC1)CO | C11H9ClO
